US07960369B2
3-(1-phenylvinyl)benzaldehyde
A solution of 1-bromo-3-(1-phenylvinyl)benzene (1.00 g, 3.86 mmol) in tetrahydrofuran (5 mL) was stirred under a nitrogen atmosphere at −78° C., and 1.6 M n-butyllithium/hexane solution (3 mL, 4.8 mmol) was added dropwise. After 1 hr, N,N-dimethylformamide (0.372 mL, 4.80 mmol) was added, and the mixture was further stirred at the same temperature for 2 hrs. Aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-20% ethyl acetate/hexane) to give the title compound (0.626 g, yield 78%) as a colorless oil.

reactant | 1-bromo-3-(1-phenylvinyl)benzene | 3.86 mmol, 1.00 g | BrC1=CC(=CC=C1)C(=C)C1=CC=CC=C1 | C14H11Br
reactant | n-butyllithium hexane | 4.8 mmol, 1.6 M, 3 mL | C(CCC)[Li].CCCCCC
reactant | N,N-dimethylformamide | 4.80 mmol, 0.372 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(1-phenylvinyl)benzaldehyde | 0.626 g, yield 78% | C1(=CC=CC=C1)C(=C)C=1C=C(C=O)C=CC1 | C15H12O
